US05079382
(3S)-3,4-Dihydroxybutyronitrile (8.0 g, 79.1 mmol), pyridine (19.1 ml) and mesyl chloride (7.33 ml) were mixed at 0° C. for 6 hours. The mixture was poured in ice-cooled 1N hydrochloric acid and stirred, followed by extraction with ethyl acetate. After the organic layer was dried over anhydrous sodium sulfate, the solvent was evaporated off with an evaporator. The residue was purified with silica gel column chromatography (acetone:chloroform=5:95) to obtain (3S)-3-hydroxy-4-methanesulfonyloxybutyronitrile (8.1 g). Yield, 57 %.

reactant | (3S)-3,4-Dihydroxybutyronitrile | 79.1 mmol, 8.0 g | O[C@@H](CC#N)CO | C4H7NO2
reactant | mesyl chloride | 7.33 ml | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | pyridine | 19.1 ml | N1=CC=CC=C1 | C5H5N
product | (3S)-3-hydroxy-4-methanesulfonyloxybutyronitrile | 8.1 g | O[C@@H](CC#N)COS(=O)(=O)C | C5H9NO4S
